resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.994024
R2 0 n2 0.985123
R3 0 n4 1.005809
R4 n1 n3 1.016187
R5 n1 n5 1.012886
R6 n2 n3 0.989421
R7 n2 n6 0.985133
R8 n3 n7 1.006181
R9 n4 n5 0.986063
R10 n4 n6 0.994372
R11 n5 n7 0.994094
R12 n6 n7 1.007189
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
